US04259487
In a comparison experiment there were present in a 2 liter multinecked flask 184.4 grams of cyanuric chloride dissolved in 760 grams of toluene and there were dropped in at about 40°-50° C. in the course of 1 hour 252 ml of an aqueous sodium methyl mercaptide solution which contained 70.1 grams of sodium methyl mercaptide. From the organic phase there could be isolated about 90% of 2-methylmercapto-4,6-dichloro-s-triazine. The content of 2,4-dimethylmercapto-6-chloro-s-triazine was about 10%.

reactant | cyanuric chloride | 184.4 grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium methyl mercaptide | 252 ml | C[S-].[Na+]
reactant | sodium methyl mercaptide | 70.1 grams | C[S-].[Na+]
solvent | toluene | 760 grams | C1(=CC=CC=C1)C | C7H8
product | 2-methylmercapto-4,6-dichloro-s-triazine | about 90% | CSC1=NC(=NC(=N1)Cl)Cl | C4H3Cl2N3S
